US07420083B2
This compound was produced using similar methods as those used in Step 5, example 27, starting with 4-(3-bromo-propoxy)-2-(4-trifluoromethoxy-benzoylamino)-benzoic acid methyl ester (0.46 g, 0.97 mmol), biphenyl-4-carbaldehyde oxime (0.20 g, 1.01 mmol) and cesium carbonate (1.26 g, 3.86 mmol) in acetone (35 mL). The crude material was purified by flash chromatography through silica gel using diethyl ether/hexanes (0/100 gradient to 12/88) to give 4-[3-({[(1E)-1,1′-biphenyl-4-ylmethylidene]amino}oxy)propoxy]-2-{[4-(trifluoromethoxy)benzoyl]amino}benzoic acid methyl ester (0.46 g, 80%) as a white solid. 1H NMR (500 MHz, DMSO-d6); δ 11.93 (s, 1H), 8.34 (d, 1H), 8.31 (s, 1H), 8.06 (d, 2H), 7.99 (d, 1H), 7.70-7.66 (m, 6H), 7.60 (d, 1H), 7.46 (t, 2H), 7.38 (t, 1H), 6.85 (dd, 1H), 4.31 (t, 2H), 4.23 (t, 2H), 3.87 (s, 3H), 2.18 (m, 2H).

reactant | 4-(3-bromo-propoxy)-2-(4-trifluoromethoxy-benzoylamino)-benzoic acid methyl ester | 0.97 mmol, 0.46 g | COC(C1=C(C=C(C=C1)OCCCBr)NC(C1=CC=C(C=C1)OC(F)(F)F)=O)=O | C19H17BrF3NO5
reactant | biphenyl-4-carbaldehyde oxime | 1.01 mmol, 0.20 g | C1(=CC=C(C=C1)C=NO)C1=CC=CC=C1 | C13H11NO
reactant | cesium carbonate | 3.86 mmol, 1.26 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 35 mL | CC(=O)C | C3H6O
product | 4-[3-({[(1E)-1,1′-biphenyl-4-ylmethylidene]amino}oxy)propoxy]-2-{[4-(trifluoromethoxy)benzoyl]amino}benzoic acid methyl ester | 0.46 g, 80% | COC(C1=C(C=C(C=C1)OCCCO/N=C/C1=CC=C(C=C1)C1=CC=CC=C1)NC(C1=CC=C(C=C1)OC(F)(F)F)=O)=O | C32H27F3N2O6
